US08198286B2
{4-[4-(2-tert-Butoxycarbonylaminoethoxy)phenyl]butyl}carbamic acid benzyl ester (1)
Diisopropylazodicarboxylate (132 mL) was added dropwise over 45 minutes to a stirring mixture of [4-(4-hydroxyphenyl)butyl]carbamic acid benzyl ester (50 g, 0.167 mol), (2-hydroxyethyl)carbamic acid tert-butyl ester (103.4 mL, 0.668 mol), and THF (150 mL) with ice-methanol bath cooling from 15 to 35° C. When the exothermic reaction ceased, the cooling bath was removed, and the reaction was allowed to stir at room temperature overnight. The solvent was evaporated at reduced pressure, and the residue was applied to a 1 kg column of silica gel and eluted with methylene chloride. The chromatography was repeated twice. The residue after evaporation was washed with hexanes (1.5 L), and the resulting solid was re-crystallized from a mixture of hexanes and methylene chloride (4:1, 1 L) to afford 54 g (73%) of the pure product as a white solid. A second crop yielded an additional 10 g (13%) of the product. 1H NMR (300 MHz, CDCl3) δ 1.45 (s, 9H), 1.56 (m, 4H), 2.56 (t, 2H), 3.20 (m, 2H), 3.50 (m, 2H), 3.98 (t, 2H), 4.75 (br s, 1H), 5.00 (br s, 1H), 5.09 (s, 2H), 6.80 (d, 2H), 7.06 (d, 2H), 7.34 (m, 5H).

reactant | Diisopropylazodicarboxylate | 132 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | [4-(4-hydroxyphenyl)butyl]carbamic acid benzyl ester | 0.167 mol, 50 g | C(C1=CC=CC=C1)OC(NCCCCC1=CC=C(C=C1)O)=O | C18H21NO3
reactant | (2-hydroxyethyl)carbamic acid tert-butyl ester | 0.668 mol, 103.4 mL | C(C)(C)(C)OC(NCCO)=O | C7H15NO3
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | {4-[4-(2-tert-Butoxycarbonylaminoethoxy)phenyl]butyl}carbamic acid benzyl ester | 54 g, 73% | C(C1=CC=CC=C1)OC(NCCCCC1=CC=C(C=C1)OCCNC(=O)OC(C)(C)C)=O | C25H34N2O5
